US05863949
To a solution of dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid benzyl ester (1.77 grams, 3.83 mmol) in ethanol (100 mL) was added 10% palladium on activated carbon (644 mg). The mixture was agitated under 3 atmospheres hydrogen in a Parr shaker for 1.5 hours. The catalyst was removed by filtration through nylon (pore size 0.45 μm) and the solvent was evaporated leaving dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid as a white foam, 1.42 grams (100%).

reactant | dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid benzyl ester | 3.83 mmol, 1.77 grams | C(C1=CC=CC=C1)OC(C(C(C)C)(NS(=O)(=O)C1=CC=C(C=C1)OC)CC(N(C)C)=O)=O | C23H30N2O6S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on activated carbon | 644 mg | [Pd] | Pd
product | dimethylcarbamoylmethyl(4-methoxybenzenesulfonyl)amino-3-methylbutyric acid | CN(C(=O)CC(C(=O)O)(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC)C | C16H24N2O6S
